US05264439
Step F: Preparation of methyl 2-(2-chloro-4-hydroxymethyl-6-methoxyphenoxy)-2-phenylacetate
To a solution of 0.500 g (2.65 mmol) of 3-chloro-4-hydroxy-5-methoxybenzyl alcohol (Bader) and 0.668 g (1.1 eq) of methyl 2-bromophenylacetate dissolved in 5 mL acetone was added 0.733 g (2 eq) of anhydrous potassium carbonate and the reaction mixture was stirred and refluxed overnight. The reaction mixture was cooled to room temperature, filtered and evaporated in vacuo. The residual oil was purified on a silica gel flash chromatography column eluted with 35% ethyl acetate/hexane to afford 0.570 g (64%) of the title compound.

reactant | 3-chloro-4-hydroxy-5-methoxybenzyl alcohol | 2.65 mmol, 0.500 g | ClC=1C=C(CO)C=C(C1O)OC | C8H9ClO3
reactant | methyl 2-bromophenylacetate | 0.668 g, 1.1 eq | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
reactant | potassium carbonate | 0.733 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | methyl 2-(2-chloro-4-hydroxymethyl-6-methoxyphenoxy)-2-phenylacetate | 0.570 g, 64% | ClC1=C(OC(C(=O)OC)C2=CC=CC=C2)C(=CC(=C1)CO)OC | C17H17ClO5
